US08080556B2
Imidazole-1-carboxylic acid bicyclo[1.1.1]pent-1-ylamide
Triethylamine (0.1 mL, 0.5 mmol) was added to a solution of bicyclo[1.1.1]-pentan-1-amine hydrogen chloride (19 mg, 0.16 mmol) and 1,1′-carbonyldiimidazole (32 mg, 0.192 mmol) in DMF (2 mL) (clear solution turned into suspension). The suspension was used for the synthesis of compound 1 without further isolation of compound 1b.

reactant | Triethylamine | 0.5 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | bicyclo[1.1.1]-pentan-1-amine hydrogen chloride | 0.16 mmol, 19 mg | Cl.C12(CC(C1)C2)N
reactant | 1,1′-carbonyldiimidazole | 0.192 mmol, 32 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid bicyclo[1.1.1]pent-1-ylamide | C12(CC(C1)C2)NC(=O)N2C=NC=C2 | C9H11N3O
